US08378104B2
Step B: 7-bromo-6-fluoro-1,2,3-benzothiadiazole
A mixture of 3-bromo-2,4-difluoronitrobenzene (1.00 g, 4.20 mmol) and sodium sulfide (655.9 mg, 8.404 mmol) in degassed water (20 mL) was heated to 30° C. overnight in a sealed tube. The solution was neutralized with aqueous 2 N hydrochloric acid at rt. The material was extracted with DCM and water, and the organic layer was purified by column chromatography (1% EtOAc:heptane). The purified residue was dissolved in ethanol (20 mL). Iron powder (1.173 g, 21.01 mmol) and aqueous 12 N hydrochloric acid (0.07 mL, 0.84 mmol) were added, and the mixture was heated to 70° C. for 20 min. The solution was cooled to rt and filtered through Celite. The filtrate was concentrated in vacuo, redissolved in acetic acid (20 mL), and sodium nitrite (579.8 mg, 8.404 mmol) was added at rt. After stirring for 10 min, saturated potassium carbonate was added until bubbling stopped. The material was extracted with DCM and saturated aqueous sodium bicarbonate. The organic layer was purified via column chromatography (1% EtOAc:heptane) to afford 125 mg (13%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.47 (dd, J=8.8, 8.1 Hz, 1 H), 8.56 (dd, J=9.1, 4.0 Hz, 1 H).

reactant | 3-bromo-2,4-difluoronitrobenzene | 4.20 mmol, 1.00 g | BrC=1C(=C(C=CC1F)[N+](=O)[O-])F | C6H2BrF2NO2
reactant | sodium sulfide | 8.404 mmol, 655.9 mg | [S-2].[Na+].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | hydrochloric acid | 0.84 mmol, 12 N, 0.07 mL | Cl | ClH
reactant | sodium nitrite | 8.404 mmol, 579.8 mg | N(=O)[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 20 mL | O | H2O
catalyst | Iron | 21.01 mmol, 1.173 g | [Fe] | Fe
product | 7-bromo-6-fluoro-1,2,3-benzothiadiazole | 125 mg, 13% | BrC1=C(C=CC=2N=NSC21)F | C6H2BrFN2S
